US08183251B2
d) {4-[(2-Cyclopropylpyrimidin-5-yl)oxy]benzyl}methylamine dihydrochloride
To a solution of 4-[(2-cyclopropylpyrimidin-5-yl)oxy]benzaldehyde (0.240 g, 1.0 mmol) in MeCN (0.50 mL) was added 2M methylamine in THF (2.0 mL, 4.0 mmol) followed by sodium borohydride (0.120 g, 3.2 mmol) and MeCN (0.50 mL). The slurry was stirred for 30 minutes. The solvents were removed by evaporation, water was added and the mixture was extracted with EtOAc. The organic phase was washed with brine and evaporated onto silica gel. This gel was applied onto a 20 g silica gel column. Column chromatography using a gradient of 10% to 60% EtOAc in heptanes eluted impurities. Elution with 10% MeOH in EtOAc (100 mL) followed by 5% concentrated NH3 in MeOH (100 mL) gave the product in the basic fractions. These fractions were combined, concentrated and re-dissolved in water. The pH was adjusted to 13 to 14 using sodium hydroxide solution and the mixture was extracted several times with EtOAc. The organic extracts were washed with brine, dried over potassium carbonate, filtered and concentrated to give an oily residue. This oil was dissolved in EtOAc and an excess of a 1.5M solution of hydrogen chloride in EtOAc was added. The solvent was removed by evaporation to give 0.186 g (56% yield) of the crude subtitle compound. The salt obtained was 93.9% pure and was used without further purification.

reactant | 4-[(2-cyclopropylpyrimidin-5-yl)oxy]benzaldehyde | 1.0 mmol, 0.240 g | C1(CC1)C1=NC=C(C=N1)OC1=CC=C(C=O)C=C1 | C14H12N2O2
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 4.0 mmol, 2.0 mL | C1CCOC1 | C4H8O
reactant | sodium borohydride | 3.2 mmol, 0.120 g | [BH4-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | MeCN | 0.50 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeCN | 0.50 mL | CC#N | C2H3N
product | {4-[(2-Cyclopropylpyrimidin-5-yl)oxy]benzyl}methylamine dihydrochloride | 0.186 g, 56% yield | Cl.Cl.C1(CC1)C1=NC=C(C=N1)OC1=CC=C(CCN)C=C1 | InChI=1S/C15H17N3O.2ClH/c16-8-7-11-1-5-13(6-2-11)19-14-9-17-15(18-10-14)12-3-4-12;;/h1-2,5-6,9-10,12H,3-4,7-8,16H2;2*1H
